Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo man with past medical history of prostate cancer 
(diagnosed ___, treated initially with definitive XRT, then 
recurrence with multiple bony metastases, treated with 
leuprolide, ketoconazole/hydrocortisone, and bicalutamide with 
rising PSAs, started on docetaxel ___, most recent cycle of 
docetaxel on ___, as well as primary biliary cirrhosis, 
HTN, DM2 (diet-controlled), PVD, and OA, who presents with 
fever. 

Of note, on ___ he was admitted to ___ in the 
setting of orthostasis, diarrhea, and cough productive of yellow 
sputum; he was diagnosed with bronchitis and treated with 
levaquin. He was also found to have Cdiff and was treated with 
metronidazole (___ompleted on ___ per his 
recollection after repeat Cdiff was negative on ___. It does 
seem he had Cdiff in ___ as well. He was seen in ___ 
clinic on ___ with continued diarrhea, cough, DOE. He has also 
had LLE>RLE swelling secondary to venous insufficiency following 
vein harvesting in that limb for bypass surgery as well as 
scrotal swelling. On that visit, taxotere was held given ongoing 
diarrhea. 

Now he reports constipation, but had fever to 102.6, prompting 
referral to the ER. 
Vitals on admit: 100.0 81 111/36 18 97% . Tm=102.6 in the ER. 
Vitals on transfer 99.6 69 104/40 18 97%. 

Currently, he reports constipation x 1.5 days. No abdominal 
pain, dysuria, urgency/frequency. His chronic DOE is at 
baseline. He reports baseline runny nose from allergies. No new 
cough. He has a rash on his LLE, but is unsure how long it has 
been present. He notes ___ edema that has been ongoing. He 
reports coming in after feeling feverish today only and his ___ 
having checked his temperature with T 102.6. 
    
Review of sytems:  
(+) Per HPI  
(-)  Ten point review of systems is otherwise negative.

 
Past Medical History:
ONCOLOGIC HISTORY:
- ___, diagnosed with prostate cancer, treated definitively 
with
radiation therapy.  He was monitored with serial PSAs at the ___. 

- early ___, his prostate cancer care was transferred to Dr.
___.  Pt's PSA was noted to be slowly rising, with doubling
time of approx ___ year.  Thus, no therapy was initiated.
- ___, pt's PSA rose to 10.9 and Lupron was started. He
continued q3mos Lupron shots with no significant side effects.
PSA responded well, decreased to 0.1.  PSA was continued to be
followed closely.  
- ___, PSA was noted to rise from 1.6 to 9.7.  At this
time, Casodex was added.  
- ___ further PSA rise to 22.9. Around this time, pt 
started
to experience pain in his L shoulder, low back.  He initially
thought this was related to his OA, however, when pain worsened,
he presented to the ___ where an Xray and subsequent bone scan
were done.  Bone scan revealed uptake in various ribs and
vertebral bodies, suspicious for metastatic bone disease. He was
advised to stop Casodex as it is not helping and referred to
___
- ___ initial visit here, started Ketoconozole/Hydrocort,
continuing Lupron
- ___ PSA continues to rise, found out pt can get Zytiga at
the ___ (Dr. ___ so switched to that
- ___ hospitalize for ARF, acute urinary 
retention,
was relieved by catheter, follow up with outpt urology
- hospitalized ___ to ___ for observation after the
cystoscopy, clot evacuation and bladder fulgaration that was
performed by Dr. ___ recurrent hematuria.  This was
thought to be perhaps related to changes from radiation 
treatment
he had received years ago. 
- ___ PSA continues to rise so discontinued Zytiga, tapered
off steroids
- ___ started C1D1 Taxotere
- ___ admitted to ___ for right pleuritic CP,
workup was negative for PE, but per report CT chest showed ?lung
mets
- ___ C2D1 Taxotere/Xgeva
- ___ C3D1 Taxotere/Lupron
- ___ hospitalized for nausea, weight loss,
failure to thrive.  found to have C diff infection, started on
Flagyl
- ___ C4D1 Taxotere (added Neulasta)
- ___ C5D1 Taxoetere
- ___: C6D1 Taxotere/Xgeva
- ___: Taxotere held because of persistent diarrhea. 

PAST MEDICAL HISTORY:  
DMII diet controlled
PVD s/p stents in L leg
OA s/p back surgery in ___
primary biliary cirrhosis
AAA
Cataracts
COPD
Colonic Polyps ___
GERD
Spinal Stenosis
One ear has metal and one ears has plastic stapes implants  
Urinary incontinence
H/o gallstones
Bilateral renal artery stenosis  
Small AAA (f/b Dr. ___ at ___  
Dyslipidemia  
Hypertension  
Diastolic Heart Failure 
 
Social History:
___
Family History:
F-DM, MI
M-DM
older brother-DM 
another brother-low grade lymphoma.

 
Physical Exam:
ADMISSION EXAM:
97.9 100/40 67 18 96%RA
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric, o/p 
clear, MMM.
Neck: Supple, no JVD, no thyromegaly.
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: CTA b/l
ABD: Soft, non-tender, non-distended, + bowel sounds.
EXTR: LLE edema>RLE
DERM: 10x20cm erythematous slightly warm rash on LLE.
Neuro: Cranial nerves ___ grossly intact
PSYCH: Appropriate and calm.

DISCHARGE EXAM:
99.1 (Tm 99.4) 102-160/40-56, 68-97, ___, 95-100 %RA
GEN: Alert, calm, no acute signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric, o/p 
clear, MMM.
Neck: Supple, no JVD, no thyromegaly.
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: CTA b/l
ABD: Soft, non-tender, non-distended, + bowel sounds.
EXTR: LLE edema>RLE (baseline).
DERM: Significantly improved erythema. No warmth or tenderness.
 
Pertinent Results:
ADMISSION LABS:
___ 03:10PM BLOOD WBC-4.5 RBC-3.14* Hgb-9.6* Hct-28.4* 
MCV-90 MCH-30.6 MCHC-33.9 RDW-16.3* Plt ___
___ 03:10PM BLOOD Neuts-74.7* Lymphs-17.8* Monos-7.2 
Eos-0.2 Baso-0.1
___ 03:10PM BLOOD Glucose-143* UreaN-17 Creat-1.0 Na-134 
K-4.5 Cl-105 HCO3-21* AnGap-13
___ 03:10PM BLOOD ALT-6 AST-22 AlkPhos-90 TotBili-0.4
___ 03:10PM BLOOD Albumin-2.8*
___ 06:20AM BLOOD Calcium-7.3* Phos-2.3* Mg-1.9

PERTINENT LABS:
___ 06:44AM BLOOD Ret Aut-1.6
___ 06:44AM BLOOD LD(LDH)-1448* TotBili-0.4
___:44AM BLOOD calTIBC-86* VitB12-530 Folate-16.8 
Hapto-426* Ferritn-4806* TRF-66*
___ 06:44AM BLOOD Albumin-2.5* Calcium-6.8* Phos-2.7 Mg-2.0 
Iron-14*

DISCHARGE LABS:
___ 07:15AM BLOOD WBC-6.0 RBC-2.77* Hgb-8.3* Hct-24.8* 
MCV-89 MCH-29.8 MCHC-33.3 RDW-16.3* Plt ___
___ 07:15AM BLOOD Glucose-109* UreaN-27* Creat-1.4* Na-136 
K-4.9 Cl-107 HCO3-20* AnGap-14
___ 07:15AM BLOOD Calcium-6.9* Phos-2.2* Mg-2.2

MICRO:
___ Blood Culture, Routine (Final ___:    NO GROWTH. 
___ Blood Culture, Routine (Final ___:    NO GROWTH. 
___ URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
___ C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ ___ ___ AT 15:37. 

      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 
___ SPUTUM: 
GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 
   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
___ Blood Culture, Routine (Pending): 
___ URINE CULTURE (Final ___:    NO GROWTH. 
___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
___ URINE CULTURE (Final ___: YEAST.    <10,000 
organisms/ml.
___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
___ SPUTUM      Source: Expectorated. 
   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 
   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED.

IMAGING
___ CHEST (PA & LAT): Likely right lower lobe pneumonia. 
___ UNILAT LOWER EXT VEINS LEFT: No evidence of DVT in the 
left lower extremity.
___ CHEST (PA & LAT): Heart size and mediastinum are stable 
in appearance.  Bilateral pleural effusions and bibasal 
atelectasis appear to be slightly more pronounced than on the 
prior study.  There is no evidence of pulmonary edema or 
pneumothorax. 
___ CHEST (PORTABLE AP): As compared to the previous 
radiograph, there is a minimal increase in visibility of the 
interstitial lung structures, likely reflecting increased 
interstitial fluid load.  The pleural effusions and the 
bilateral areas of atelectasis are unchanged in extent and 
severity.  No new parenchymal opacity suggesting pneumonia.  
Normal size of the cardiac silhouette.  No pneumothorax. 
 
Brief Hospital Course:
___ M with metastatic prostate cancer, presenting with fevers, 
found to have LLE cellulitis, RLL pna, and stool C difficile 
positive.

# C. diff colitis - Previous history of c diff colitis ___, 
then a repeat ___ C diff treated with metronidazole (___ompleted ___ with negative C diff repeat ___. Pt 
found to have C. diff positive stools on ___, though pt 
presented with constipation. However, given fevers, this was 
tested for. He started on PO vancomycin since this is his second 
recurrence and should continue on this medication according to 
the following taper:
125 mg orally 4 times daily for 14 days (through ___
125 mg orally 2 times daily for 7 days (through ___
125 mg orally once daily for 7 days (through ___
125 mg orally once every 2 days for 8 days (4 doses) (through 
___
125 mg orally once every 3 days for 15 days (5 doses) (through 
___
If the patient is discharged from rehab, still on this 
medication, please have prescription for PO vancomycin faxed 
over to the ___ (attention: ___ at ___ 
prior to his discharge.

# Pneumonia - Pt was initially felt to have pneumonia in the RLL 
and was treated for a 5-day course with improvement, though 
started having fevers towards the end of this antibiotic course. 
Repeat CXR was obtained, and was felt that he may have developed 
a new pneumonia on the LLL, though final read was negative. 
Given his fevers, he was started on PO levofloxacin (dosed q48h 
due to ___, which he should continue for a 7 day course until 
___. There was some concern for aspiration but pt was 
evaluated by speech/swallow and found to have no deficits. 

# LLE cellulitis - Pt with erythema, swelling and warmth over 
the LLE, with likely nidus of infection his onychomycosis over 
his toenails, and was started on terbinafine cream. He was 
treated with a 5-day course with significant improvement. He has 
completed the course with minimal erythema, no tenderness, and 
he is at his baseline swelling. MRSA swab was negative. 

# ___ - Pt noted to have ___ of Cr to 1.4 as of ___, stable 
on ___. Likely pre-renal and would encourage PO intake. 
Re-check labs on ___ to check for resolution or 
progression of ___. He had ___ previously in this 
hospitalization that responded to IVF. Given his likely 
dehydrated state in the setting of these infections, his 
valsartan was decreased to 80mg and was administered at night. 
Please monitor his BP and increase the valsartan as needed. 

# Metastatic Prostate CA: diagnosed ___, treated initially with 
definitive XRT, then recurrence with multiple bony metastases, 
treated with leuprolide, ketoconazole/hydrocortisone, and 
bicalutamide with rising PSAs, started on docetaxel ___, 
most recent cycle of docetaxel on ___. He will have 
follow-up with his oncologist, Dr. ___ chemotherapy next 
week (see appointments in the discharge instructions).

CHRONIC DIAGNOSES:
# Anemia:  Normocytic and may be ___ metastatic disease to bone 
with low retic count (corrected RI 0.5%) and anemia of 
inflammation on iron studies with low TIBC, and extremely high 
ferritin. In conversation with his other providers, it was 
decided not to intervene acutely. 

#Anorexia: Possibly secondary to underlying malignancy, recent 
infections. Mirtazipine was initiated and he will see palliative 
care as an outpatient for symptom management. 

# DM- Diet controlled
 
# Back pain- continue PRN oxycodone and Tylenol

# Constipation- bowel regimen with miralax, colace, senna  

# HTN - valsartan decreased to 80mg and switched to nights to 
decrease orthostatic hypotension. 

# LLE edema- ___ ___ neg for DVT; otherwise has been 
documented in prior outpatient notes and seemingly chronic.   

TRANSITIONAL ISSUES:
- PENDING LABS: 
___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
- Patient found to have recurrent C. difficile, was started on 
po vanc.  Should undergo taper as below:
125 mg orally 4 times daily for 14 days
125 mg orally 2 times daily for 7 days
125 mg orally once daily for 7 days
125 mg orally once every 2 days for 8 days (4 doses)
125 mg orally once every 3 days for 15 days (5 doses)
- If the patient is discharged from rehab, still on PO vanco, 
please have prescription for PO vancomycin faxed over to the ___ 
(attention: ___ at ___ prior to his 
discharge.
- Patient with poor po intake, started on mirtazepine.
- Patient was seen by Dr. ___ inpatient.  As patient 
was inpatient with fevers/infection, chemo delayed.  Has f/u 
scheduled with Dr. ___. 
- valsartan decreased to 80mg and switched to nights to decrease 
orthostatic hypotension. 
 
Medications on Admission:
albuterol sulfate HFA 90 mcg/actuation 2 (Two) puffs Q4-6H
oxycontin 10mg BID PRN
omeprazole 20 mg daily
oxycodone 5 mg  as needed for every 3 to 4 hours for pain
prochlorperazine maleate 10 mg every 6 to 8 hours as needed
terazosin 10 mg daily
ursodiol 300 mg BID
Diovan 160 mg daily
Aspirin 81 mg daily
cholecalciferol (vitamin D3) 1,000 unit daily
multivitamin daily
miralax PRN

 
Discharge Medications:
1. Vancomycin Oral Liquid ___ mg PO Q6H 
4x/day until ___, then 2x/day x7d, then 1x/day x7d, then 1x/2d 
x8d then 1x/3d x15d 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times daily 
Disp #*66 Capsule Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Prochlorperazine 10 mg PO Q6-8H:PRN nausea 
7. Terazosin 10 mg PO HS 
8. Valsartan 80 mg PO QHS 
9. Vitamin D 1000 UNIT PO DAILY 
10. Acetaminophen 650 mg PO Q8H:PRN back pain 
11. Calcium Carbonate 500 mg PO BID 
12. OxycoDONE Liquid 5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg/5 mL 5 mg by mouth every six (6) hours Disp 
___ Milliliter Refills:*0
13. Terbinafine 1% Cream 1 Appl TP DAILY 
14. Docusate Sodium (Liquid) 100 mg PO BID 
15. Mirtazapine 15 mg PO HS 
16. Albuterol Inhaler 2 PUFF IH Q4-6H:PRN shortness of breath 
17. Levofloxacin 750 mg PO Q48H 
You should continue this through ___. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Left lower extremity cellulitis
Acute bacterial pneumonia
Clostridium difficile colitis

Secondary Diagnoses:
Metastatic prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.  You came to the hospital because of high 
fevers.  It was felt that your fevers were due to a skin 
infection on your left leg, C. difficile infection in your 
stool, as well as pneumonia (lung infection).  We treated you 
with multiple antibiotics for these three infections, and your 
condition slowly improved. 

It is important that you continue to take vancomycin to treat 
your c. difficile. Please take the medication according to the 
following taper:
125 mg orally 4 times daily for 14 days (through ___
125 mg orally 2 times daily for 7 days (through ___
125 mg orally once daily for 7 days (through ___
125 mg orally once every 2 days for 8 days (4 doses) (through 
___
125 mg orally once every 3 days for 15 days (5 doses) (through 
___

You should also continue to take antibiotics for your pneumonia 
through ___.
 
Followup Instructions:
___